US08293916B2
2-Chloro-4-(2,5-dimethyl-1-p-tolyl-1H-imidazol-4-ylethynyl)-pyridine
This compound was prepared according to the general procedure 3 as described hereinabove. 2-Chloro-4-(2-methyl-1-p-tolyl-1H-imidazol-4-ylethynyl)-pyridine (220 mg, 0.71 mmol) was dissolved in 5 mL THF and cooled to −75° C. Lithiumdiisopropylamide (0.61 ml, 1.22 mmol) was added, and the mixture stirred for 15 min at −75° C. Iodomethane (0.08 ml, 1.14 mmol) was added and stirring was continued at −75° C. for 2 hrs. The reaction mixture was quenched with sat. NaHCO3− solution and extracted with water and ethyl acetate. The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (heptane/ethylacetate 90:10→0:100 gradient) and by recrystallization from dichloromethane and diisopropylether. The desired compound was obtained as a light yellow solid (30 mg, 13%), MS: m/e=322.3 (M+H+).

reactant | 2-Chloro-4-(2-methyl-1-p-tolyl-1H-imidazol-4-ylethynyl)-pyridine | 0.71 mmol, 220 mg | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC=C(C=C1)C)C | C18H14ClN3
reactant | Lithiumdiisopropylamide | 1.22 mmol, 0.61 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | Iodomethane | 1.14 mmol, 0.08 ml | IC | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-(2,5-dimethyl-1-p-tolyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1C)C1=CC=C(C=C1)C)C | C19H16ClN3
